US05698579
To a stirred solution of 3-phenyl-3-(1-oxoisoindolin-2-yl)propionic acid (0.703 g, 2.50 mmol) in 15 mL of tetrahydrofuran under nitrogen was added carbonyldiimidazole (0.438 g, 2.70 mmol), and a few crystals of4-N,N-dimethylaminopyridine [DMAP]. The reaction mixture was stirred for 1.5 hours and then 0.25 mL of 15N ammonium hydroxide was added. After 20 minutes, the reaction mixture was concentrated in vacuo and the residue slurried in water. The resulting solid was isolated by filtration and dried in vacuo to afford 0.58 g (80%) of crude product as an off-white powder. The crude product was recrystallized from ethanol to afford 0.403 g (57%) of 3-phenyl-3-(1-oxoisoindolin-2-yl)-propionamide as white prisms: 1H NMR (DMSO-6, 250 MHz) 7.8-7.2 (m, 10H), 6.92 (br s, 1H), 5.81 (overlapping dd, 1H) 4.59 (d, J=17.5 Hz, 1H), 4.16 (d, J=17.5 Hz, 1H), 3.1-2.8 (m, 2H); 13C NMR (DMSO-d6) 171.3, 167.0, 140.7, 132.2, 131.4, 128.6, 127.9, 127.5, 126.9, 123.5, 122.8, 51.5, 46.3, 37.9; Anal. Calcd for C17H16N2O2 : Theory C, 72.84; H, 5.75; N, 9.99. Found: C, 72.46; H, 5.68; N, 9.91.

reactant | 3-phenyl-3-(1-oxoisoindolin-2-yl)propionic acid | 2.50 mmol, 0.703 g | C1(=CC=CC=C1)C(CC(=O)O)N1C(C2=CC=CC=C2C1)=O | C17H15NO3
reactant | carbonyldiimidazole | 2.70 mmol, 0.438 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-phenyl-3-(1-oxoisoindolin-2-yl)-propionamide | 0.403 g, 57% | C1(=CC=CC=C1)C(CC(=O)N)N1C(C2=CC=CC=C2C1)=O | C17H16N2O2
